US07476684B2
4-[4-Methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyridine
To a mechanically stirred and cooled (9° C.) suspension of 4-methyl-5-pyridin-4-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione (267 g) and methyl iodide (197.7 g) in acetone (2.6 L), was added a solution of sodium hydroxide (54 g in 600 mL of water) at such a rate (ca. 20 mL/min) as to maintain the temperature between 10 and 15° C. Another portion of water (50 mL) was then added and the temperature was allowed to come to 21 to 24° C. After another 2 h, the acetone was distilled off from the reaction mixture in vacuo (water-bath kept at 30° C.). Another portion of water (750 mL) was then added before cooling (17 to 18° C.) and collection of the formed precipitate by filtration. This solid was then washed with water (2×1 L) before drying at 100 mbar under a gentle stream of air for 3 days to yield 235 g of the title compound as a white powder. 1H NMR (DMSO-d6): 2.7 (s, 3H), 3.6 (s, 3H), 7.7 (m, 2H), 8.8 (d, 2H).

reactant | 4-methyl-5-pyridin-4-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 267 g | CN1C(NN=C1C1=CC=NC=C1)=S | C8H8N4S
reactant | methyl iodide | 197.7 g | CI | CH3I
reactant | sodium hydroxide | 600 mL, 54 g | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | acetone | 2.6 L | CC(=O)C | C3H6O
product | 4-[4-Methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyridine | 235 g | CN1C(=NN=C1SC)C1=CC=NC=C1 | C9H10N4S
